US09216964B2
To a round-bottom flask containing 5-amino-2-methyl-phenylboronic acid pinacol ester (233 mg, 1 mmol), 3-chloro-isoquinoline (2-(5 mg, 1.5 mmol), Pd(PPh3)4 (128 mg, 0.1 mmol) is added toluene (4 ml), EtOH (1 ml) and aqueous 2M Na2CO3 solution (2 ml). The flask is purged with argon and sealed. The mixture is stirred at 90° C. for 18 hours, cooled to room temperature and extracted using water and ethyl acetate. The organic layer is separated, washed with brine, dried over MgSO4 and concentrated. The residue is subjected to silica gel flash chromatography, eluted with ethyl acetate in hexanes from 30% to 50% to afford 3-(isoquinolin-3-yl)-4-methylaniline as a brown oil. LC-MS m/z: 235.1 (M+1).

reactant | 5-amino-2-methyl-phenylboronic acid pinacol ester | 1 mmol, 233 mg | NC=1C=CC(=C(C1)B1OC(C)(C)C(C)(C)O1)C | C13H20BNO2
reactant | 3-chloro-isoquinoline | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 2M, 2 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.1 mmol, 128 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 1 ml | CCO | C2H6O
product | 3-(isoquinolin-3-yl)-4-methylaniline | C1=NC(=CC2=CC=CC=C12)C=1C=C(N)C=CC1C | C16H14N2
